US09328096B2
5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxamide
To solution of 5-(5-bromo-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide (Preparation 14, 536 mg, 1.28 mmol) in dioxane (15 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (390 mg, 1.54 mmol) and potassium acetate (380 mg, 3.85 mmol). The reaction was degassed with nitrogen for 5 minutes before the addition of Pd(dppf)Cl2 (52 mg, 0.06 mmol) and heated to 100° C. for 2.5 hours. The reaction was cooled, filtered and the filtrate purified using silica gel column chromatography eluting with 70% EtOAc in heptanes to afford the title compound (463 mg, 60%).

reactant | 5-(5-bromo-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide | 1.28 mmol, 536 mg | BrC=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)N)C1)Cl | C17H12BrClN4O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.54 mmol, 390 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3.85 mmol, 380 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.06 mmol, 52 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxamide | 463 mg, 60% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H24BClN4O4
